US05716971
A solution of 4-methoxysalicylaldehyde (7.54 g) and N-ethyl diisopropylamine (17 ml) in dichloromethane (250 ml) was cooled to 0° C., to which was added dropwise chloromethyl methyl ether (6.0 ml). The mixture was then warmed up to room temperature, which was stirred overnight. To the reaction mixture was added water to quench the reaction, which was subjected to extraction with chloroform. The organic layer was dried (anhydrous magnesium sulfate), then the solvent was distilled off under reduced pressure. The residue was purified by means of a silica gel column chromatography (eluted with ethyl acetate/hexane) to give 4-methoxy-2-methoxymethoxy benzaldehyde (8.82 g) (Compound B-4), whose physico-chemical properties are shown in Table 5.

reactant | 4-methoxysalicylaldehyde | 7.54 g | COC=1C=C(C(C=O)=CC1)O | C8H8O3
reactant | N-ethyl diisopropylamine | 17 ml | C(C)N(C(C)C)C(C)C | C8H19N
reactant | chloromethyl methyl ether | 6.0 ml | COCCl | C2H5ClO
reactant | water | O | H2O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | 4-methoxy-2-methoxymethoxy benzaldehyde | 8.82 g | COC1=CC(=C(C=O)C=C1)OCOC | C10H12O4
